US06440995B1
2-[2-(4-Chloro-phenyl)-quinolin-4-ylamino]-ethanol hydrochloride
The title compound, m.p. 262-264° C., and MS: m/e=299.2 (M+H+), was prepared from 4-chloro-2-(4-chloro-phenyl)-quinoline and ethanolamine.

reactant | 4-chloro-2-(4-chloro-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)Cl | C15H9Cl2N
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-[2-(4-Chloro-phenyl)-quinolin-4-ylamino]-ethanol hydrochloride | Cl.ClC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)NCCO | InChI=1S/C17H15ClN2O.ClH/c18-13-7-5-12(6-8-13)16-11-17(19-9-10-21)14-3-1-2-4-15(14)20-16;/h1-8,11,21H,9-10H2,(H,19,20);1H
